US07208524B2
To a solution of 4.52 g of ethyl[2-[2-(5-cyano-2-methoxy-benzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate in ethanol was added 12.3 mL of 2 mol/L sodium hydroxide solution to neutralize. After being stirred at room temperature for 3 hours, the reaction mixture was concentrated, and 1 mol/L hydrochloric acid was added to the residue. After the mixture was extracted with ethyl acetate, the organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4.16 g of [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid.

reactant | ethyl[2-[2-(5-cyano-2-methoxy-benzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate | 4.52 g | C(C)OC(COC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC)=O | C23H28N2O6S
reactant | sodium hydroxide | 2 mol/L, 12.3 mL | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid | 4.16 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)O)C=C(C=C1)C(C)C)OC | C21H24N2O6S
